US04904410
More specifically, 0.24 mg (1.5 mmol) of 2-fluorooctanoic acid was added to 2 ml of thionyl chloride and the mixture was refluxed at 90° C. for 2 hours. Then, the excess of thionyl chloride was distilled off, and a preliminarily prepared solution of 0.34 g (3.0 mmol) of triethylenediamine and 0.47 g (1.5 mmol) of 5-n-decyl-2-(p-hydroxyphenyl)pyrimidine in 5 ml of dry benzene was quickly added thereto, followed by 2 hours of stirring at 50° C. Thereafter, 0.06 g (1.5 mmol) of sodium hydride (60%) was added, and the mixture was further refluxed for 2 hours at 90° C. After the reaction, 2N-hydrochloric acid was added to the system, which was then subjected to extraction with benzene. The extract was dried, subjected to distillation of the solvent and purified by column chromatography with benzene to obtain 0.44 g (0.96 mmol) of 5-n-decyl-2-[4-(2-fluorooctanoyloxy)phenyl]pyrimidine. Yield: 64%

reactant | 2-fluorooctanoic acid | 1.5 mmol, 0.24 mg | FC(C(=O)O)CCCCCC | C8H15FO2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triethylenediamine | 3.0 mmol, 0.34 g | C1CN2CCN1CC2 | C6H12N2
reactant | 5-n-decyl-2-(p-hydroxyphenyl)pyrimidine | 1.5 mmol, 0.47 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | sodium hydride | 1.5 mmol, 0.06 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 5-n-decyl-2-[4-(2-fluorooctanoyloxy)phenyl]pyrimidine | 0.96 mmol, 0.44 g, Yield: 64% | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OC(C(CCCCCC)F)=O | C28H41FN2O2
